US08802659B2
(2-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-ethyl)phosphonic acid
To a solution of (2-{[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-ethyl)-phosphonic acid diethyl ester (65.00 mg, 0.14 mmol) in acetonitrile (1 mL) was added bromotrimethylsilane (1 mL, 7.58 mmol). The reaction was then stirred at 50° C. overnight. After the solvent was concentrated, the residue was purified with HPLC (acetonitrile-water, 15-85%) to give white precipitate (33 mg, yield: 58). ESI-MS: 420.2 (M+H)+; 1H NMR (400 MHz, DMSO) δ=7.81-7.91 (m, 3H), 7.51 (dd, 1H), 7.41 (d, 1H), 7.19 (dd, 1H), 4.40 (m, 1H), 4.31 (s, 2H), 3.12 (m, 2H), 2.21 (d, 2H), 1.97 (m, 2H), 1.82 (d, 2H), 1.36 (q, 2H), 1.22 (q, 2H), 1.08 (m, 1H), 0.88 (s, 9H).

reactant | (2-{[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-ethyl)-phosphonic acid diethyl ester | 0.14 mmol, 65.00 mg | C(C)OP(OCC)(=O)CCNCC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C | C27H42NO4P
reactant | bromotrimethylsilane | 7.58 mmol, 1 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | (2-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-ethyl)phosphonic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCCP(O)(O)=O | C23H34NO4P
